### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Monoidal/Cartesian): the tensor product of representable functors is representable

### PR DESCRIPTION
**Pull request by YaelDillies**
From Toric

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Cartesian/FunctorCategory.lean [hunk 1]
```diff
@@ -167,6 +170,29 @@ instance {K : Type*} [Category K] [HasColimitsOfShape K C]
     NatIso.ofComponents (fun _ ↦ Iso.refl _)
   exact preservesColimitsOfShape_of_natIso this.symm
 
+/-- A finite-products-preserving functor distributes over the tensor product of functors. -/
+noncomputable def tensorObjComp (F G : D ⥤ C) (H : C ⥤ E) [PreservesFiniteProducts H] :
+    (F ⊗ G) ⋙ H ≅ (F ⋙ H) ⊗ (G ⋙ H) :=
+  NatIso.ofComponents (fun X ↦ prodComparisonIso H (F.obj X) (G.obj X)) fun {X Y} f ↦ by
+    dsimp; ext <;> simp [← Functor.map_comp]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/FunctorCategory.lean:177]: As (the hom direction of) this is a map to a limit, it needs to be characterized w.r.t the projections. Things like 
```lean
@[reassoc (attr := simp)]
lemma tensorObjComp_hom_fst_app (F G : D ⥤ C) (H : C ⥤ E) [PreservesFiniteProducts H] (x : D) :
    (tensorObjComp _ _ F G H).hom.app x ≫ (fst (F ⋙ H) (G ⋙ H)).app x = H.map (fst _ _) := by 
  simp [tensorObjComp]
```

File: Mathlib/CategoryTheory/Monoidal/Cartesian/FunctorCategory.lean [hunk 2]
```diff
@@ -167,6 +170,29 @@ instance {K : Type*} [Category K] [HasColimitsOfShape K C]
...
+
+/-- A tensor product of representable functors is representable. -/
+protected def RepresentableBy.tensorObj {F : Cᵒᵖ ⥤ Type v} {G : Cᵒᵖ ⥤ Type v} {X Y : C}
+    (h₁ : F.RepresentableBy X) (h₂ : G.RepresentableBy Y) : (F ⊗ G).RepresentableBy (X ⊗ Y) where
+  homEquiv {I} := homToProd.trans (h₁.homEquiv.prodCongr h₂.homEquiv)
+  homEquiv_comp {I W} f g := by
+    refine Prod.ext ?_ ?_
+    · refine (h₁.homEquiv_comp _ _).trans ?_
+      simp
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/FunctorCategory.lean]: This `simp` is non-terminal.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/FunctorCategory.lean [hunk 3]
```diff
@@ -167,6 +170,29 @@ instance {K : Type*} [Category K] [HasColimitsOfShape K C]
...
   exact preservesColimitsOfShape_of_natIso this.symm
 
+/-- A finite-products-preserving functor distributes over the tensor product of functors. -/
+noncomputable def tensorObjComp (F G : D ⥤ C) (H : C ⥤ E) [PreservesFiniteProducts H] :
+    (F ⊗ G) ⋙ H ≅ (F ⋙ H) ⊗ (G ⋙ H) :=
+  NatIso.ofComponents (fun X ↦ prodComparisonIso H (F.obj X) (G.obj X)) fun {X Y} f ↦ by
+    dsimp; ext <;> simp [← Functor.map_comp]
+
+/-- A tensor product of representable functors is representable. -/
+protected def RepresentableBy.tensorObj {F : Cᵒᵖ ⥤ Type v} {G : Cᵒᵖ ⥤ Type v} {X Y : C}
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/FunctorCategory.lean:181]: Why protected?

File: Mathlib/CategoryTheory/Monoidal/Cartesian/FunctorCategory.lean [hunk 4]
```diff
@@ -167,6 +170,29 @@ instance {K : Type*} [Category K] [HasColimitsOfShape K C]
     NatIso.ofComponents (fun _ ↦ Iso.refl _)
   exact preservesColimitsOfShape_of_natIso this.symm
 
+/-- A finite-products-preserving functor distributes over the tensor product of functors. -/
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/FunctorCategory.lean:172]:
```suggestion
variable {D E} in
/-- A finite-products-preserving functor distributes over the tensor product of functors. -/
```

File: Mathlib/CategoryTheory/Monoidal/Cartesian/FunctorCategory.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/FunctorCategory.lean:181]: To avoid confusion with `CategoryTheory.MonoidalCategoryStruct.tensorObj`

File: Mathlib/CategoryTheory/Monoidal/Cartesian/FunctorCategory.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/FunctorCategory.lean:177]: I've added `simps` instead, is that okay by you?

Comment (robin-carlier) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/FunctorCategory.lean:177]: Since it unfolds the hom direction to 
```lean
CartesianMonoidalCategory.prodComparison H (F.obj X) (G.obj X)
```
and `CartesianMonoidalCategory.prodComparison` has the expected characterizing lemmas, yeah it should be okay.

**Comment by robin-carlier** [comment]
Thanks!

maintainer merge

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Basic.lean [hunk 5]
```diff
@@ -384,6 +384,15 @@ lemma lift_rightUnitor_hom {X Y : C} (f : X ⟶ Y) (g : X ⟶ 𝟙_ C) :
   rw [← Iso.eq_comp_inv]
   aesop_cat
 
+/-- Universal property of the cartesian product: Maps to `X ⊗ Y` correspond to pairs of maps to `X`
+and to `Y`. -/
+@[simps]
+def homToProd {X Y Z : C} : (Z ⟶ X ⊗ Y) ≃ (Z ⟶ X) × (Z ⟶ Y) where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Basic.lean]:
```suggestion
def homEquivToProd {X Y Z : C} : (Z ⟶ X ⊗ Y) ≃ (Z ⟶ X) × (Z ⟶ Y) where
```

**Comment by joelriou** [comment]
Thanks!

bors merge
